US04755323
A mixture of 31.3 g. trans-2-p-bromophenyl-5-pentyl-1,4-dioxane, 10 g. Cu2 (CN)2, 120 ml. pyridine and 60 ml. N-methylpyrrolidone is heated for 2 hours to 150°. One cools, adds thereto a solution of 120 g. FeCl3.6H2O in 600 ml. 20% hydrochloric acid, heats to 70° for 1.5 hours, while stirring. Works up as usu 1 and obtains trans-2-p-cyanophenyl-5-pentyl-1,4-dioxane.

reactant | trans-2-p-bromophenyl-5-pentyl-1,4-dioxane | BrC1=CC=C(C=C1)[C@@H]1OC[C@H](OC1)CCCCC | C15H21BrO2
reactant | (CN)2 | C(#N)C#N | C2N2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | trans-2-p-cyanophenyl-5-pentyl-1,4-dioxane | C(#N)C1=CC=C(C=C1)[C@@H]1OC[C@H](OC1)CCCCC | C16H21NO2
